US04521422
N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methylacetamide
A solution of 4.62 g of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide in 25 ml of dimethylformamide was stirred in an inert atmosphere and 1.0 g of sodium hydride (60% oil suspension) was added. After stirring for 1 hour, the liberation of hydrogen had ceased and a solution of 3.0 g of methyl iodide in 10 ml of dimethylformamide was gradually added (with cooling, if necessary). After stirring for an additional 1 hour at room temperature, any volatiles were removed at reduced pressure and then the reaction mixture was triturated 3 times with 100 ml of hexane. The reaction mixture was carefully poured into cold water and extracted exhaustively with methylene chloride. This material was evaporated at reduced pressure to yield a yellow-orange solid. A solution of the crude solid in methylene chloride was passed through a pad of hydrous magnesium silicate. Addition of hexane to the refluxing eluate gave crystals which were collected after cooling. The desired compound was a yellow-orange crystalline material, mp 146°-148° C.

reactant | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide | 4.62 g | CN(C=CC(=O)C=1C=C(C=CC1)NC(C)=O)C | C13H16N2O2
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 3.0 g | CI | CH3I
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methylacetamide | CN(C=CC(=O)C=1C=C(C=CC1)N(C(C)=O)C)C | C14H18N2O2
